US07799916B2
Precursor 3-(4-oxobutyl)-1H-indole-5-carbonitrile
18 g of 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile and 34 ml of triethylamine are dissolved in 300 ml of dichloromethane and cooled to about 0° C. in an ice/methanol bath. A solution of 39 g of sulfur trioxide/pyridine complex and 140 ml of dimethyl sulfoxide is subsequently metered in at 2 to 5° C. The mixture is stirred at 2 to 3° C. for approximately a further 20 min., then the reaction solution is warmed to 22-23° C. (room temperature) over the course of 2 hrs. The reaction mixture is diluted by addition of a further 200 ml of dichloromethane and then extracted with water, 10% citric acid solution and 10% sodium chloride solution. The organic phase is concentrated to an oily residue in vacuo, then chromatographed on silica gel using a mixture of dichloromethane and MTB ether.

reactant | 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile | 18 g | OCCCCC1=CNC2=CC=C(C=C12)C#N | C13H14N2O
reactant | triethylamine | 34 ml | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 140 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-(4-oxobutyl)-1H-indole-5-carbonitrile | O=CCCCC1=CNC2=CC=C(C=C12)C#N | C13H12N2O
